US05567722
Preparation of Intermediate: N'-Cyano-N-(6-chloro-3-pyridyl)-O-phenylisourea.
A stirred mixture of 5-amino-2-chloropyridine (1.3 g, 0.01 mol) and diphenylcyanocarbonimidate (2.4 g, 0.01 mol) in 15 ml of ethylene glycoldimethyl ether (DME), under nitrogen, was kept at 60° C. for 24 hours and at 85° C. for 6 hours when it was allowed to cool to room temperature. The solvent was removed in vacuo and the residue was heated to a melt at 120° C., under nitrogen, for 1 hour to complete the reaction as shown by TLC (5% MeOH/CHCl3). This was allowed to cool and was triturated with Et2O to give a solid that was collected by filtration. The solid was washed with Et2O to give 2.61 g of the titled product.

reactant | 5-amino-2-chloropyridine | 0.01 mol, 1.3 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | diphenylcyanocarbonimidate | 0.01 mol, 2.4 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | ether | CCOCC | C4H10O
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | ethylene | 15 ml | C=C | C2H4
product | N'-Cyano-N-(6-chloro-3-pyridyl)-O-phenylisourea | 2.61 g | C(#N)N=C(NC=1C=NC(=CC1)Cl)OC1=CC=CC=C1 | C13H9ClN4O
